US04933357
A mixture of 1-(4-chlorophenyl)-3-(1,2,4-triazol-1-yl)propan-2-one (15 g), trimethylsulphoxonium iodide (17.5 g), potassium hydroxide (8.57 g), 1,2,4-triazole (5.48 g) and tert-butanol (150 ml) was heated under reflux for 5 h, then cooled overnight. The excess tert butanol was evaporated under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic phase was separated, washed with water, dried, and evaporated to dryness to give a brown gum, which was purified by column chromatography on silica eluting with chloroform/methanol, 97:3 by volume, to give a high melting polymorph of 2-(4-chlorophenyl)-1,1-di(1,2,4-triazol-1-ylmethyl)ethanol, mp 170°.

reactant | 1-(4-chlorophenyl)-3-(1,2,4-triazol-1-yl)propan-2-one | 15 g | ClC1=CC=C(C=C1)CC(CN1N=CN=C1)=O | C11H10ClN3O
reactant | trimethylsulphoxonium iodide | 17.5 g | [I-].C[S+](=O)(C)C
reactant | potassium hydroxide | 8.57 g | [OH-].[K+]
reactant | 1,2,4-triazole | 5.48 g | N1N=CN=C1 | C2H3N3
solvent | tert-butanol | 150 ml | C(C)(C)(C)O | C4H10O
product | 2-(4-chlorophenyl)-1,1-di(1,2,4-triazol-1-ylmethyl)ethanol | ClC1=CC=C(C=C1)CC(O)(CN1N=CN=C1)CN1N=CN=C1 | C14H15ClN6O
